US07947691B2
3-Hydroxy-1-[6-(2-trifluoromethyl-phenyl)-pyridin-3-ylmethyl]-1H-thieno[3,2-d]pyrimidine-2,4-dione
The title compound was prepared from 1-(6-chloro-pyridin-3-ylmethyl)-3-hydroxy-1H-thieno[3,2-d]pyrimidine-2,4-dione and 2-trifluoromethyl phenylboronic acid via general procedure C. The crude product was purified by mass-triggered preparative HPLC. 1H NMR (DMSO-d6) δ 10.78 (bs, 1H), 8.68 (d, 1H, J=2.1 Hz), 8.18 (d, 1H, J=5.4 Hz), 7.85 (d, 1H, J=8.1 Hz), 7.80 (dd, 1H, J=2.1, 8.1 Hz), 7.75 (t, 1H, J=7.5 Hz), 7.66 (t, 1H, J=7.8 Hz), 7.56-7.46 (m, 3H), 5.39 (s, 2H); Electrospray MS: 420 (M+H); retention time; 2.44 min.

reactant | 1-(6-chloro-pyridin-3-ylmethyl)-3-hydroxy-1H-thieno[3,2-d]pyrimidine-2,4-dione | ClC1=CC=C(C=N1)CN1C(N(C(C2=C1C=CS2)=O)O)=O | C12H8ClN3O3S
reactant | 2-trifluoromethyl phenylboronic acid | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
product | 3-Hydroxy-1-[6-(2-trifluoromethyl-phenyl)-pyridin-3-ylmethyl]-1H-thieno[3,2-d]pyrimidine-2,4-dione | ON1C(N(C2=C(C1=O)SC=C2)CC=2C=NC(=CC2)C2=C(C=CC=C2)C(F)(F)F)=O | C19H12F3N3O3S
